US04474700
Reaction of 26.0 g (0.40 mole) of sodium azide, 33 g (0.75 mole) of carbon dioxide, and 106 g (0.40 mole) of perfluoro(propyl vinyl ether) in dimethyl sulfoxide was carried out in a 400 ml metal tube at 25°. The reaction mixture was poured into a solution of 250 ml of concentrated sulfuric acid in 900 ml of water. Continuous extraction with ether and evaporation of the extracts afforded 140 g of crude 3-azido-2-heptafluoropropoxytrifluoropropionic acid hydrate. This acid was reacted in a 1L metal tube under autogenous pressure with 150 g (1.39 moles) of SF4 and 84 g (2.0 moles) of NaF in 80 ml of CFCl2CF2Cl at 80° for 12 hr. Distillation gave 82.9 g (58% overall yield) of 3-azido-2-heptafluoropropoxytrifluoropropionyl fluoride, bp 51°-53° (100 mm, 13.3 kPa). IR (CCl4): 2150 (N3), 1875 (COF), and 1300-1100 cm-1 (CF, C--O). NMR (CCl4): 19F 26.0 (p, JFF 6 Hz, 1F, COF), -82.0 (t, JFF 7.5 Hz, 3F, CF3), -129.3 (d of p, JFF 20, 6 Hz, 1F, CF), and -130.2 ppm (s, 2F, CF2) with an AB pattern for CF2O at -7417 and -7567 Hz (d of q, JFF 20, 7.5 Hz, 1F) and -8181 and -8332 Hz (q, JFF 7.5 Hz, 1F), and for CF2N3 at -8244 and -8430 Hz (t, JFF 5.5 Hz, 1F) and -8465 and -8651 Hz (t,JFF 6.2 Hz, 1F).

reactant | sodium azide | 0.40 mole, 26.0 g | [N-]=[N+]=[N-].[Na+]
reactant | carbon dioxide | 0.75 mole, 33 g | C(=O)=O | CO2
reactant | perfluoro(propyl vinyl ether) | 0.40 mole, 106 g | C(=C(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F | C5F10O
reactant | sulfuric acid | 250 ml | S(O)(O)(=O)=O | H2O4S
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | water | 900 ml | O | H2O
product | 3-azido-2-heptafluoropropoxytrifluoropropionic acid hydrate | 140 g | O.N(=[N+]=[N-])C(C(C(=O)O)(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F | InChI=1S/C6HF10N3O3.H2O/c7-2(1(20)21,5(13,14)18-19-17)22-6(15,16)3(8,9)4(10,11)12;/h(H,20,21);1H2
